US05051422
N-[[4-(3-Methoxyphenyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide dihydrochloride
In a manner similar to Example 1, react 4-[(methylsulfonyl)amino]-N-[[4-(3-methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide dihydrochloride (2.3 g, 4 mmol) with H2 over Pd(OH)2 (0.3 g) catalyst to give the title compound.

reactant | 4-[(methylsulfonyl)amino]-N-[[4-(3-methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide dihydrochloride | 4 mmol, 2.3 g | Cl.Cl.CS(=O)(=O)NC1=CC=C(C(=O)NCC2N(CCN(C2)C2=CC(=CC=C2)OC)CC2=CC=CC=C2)C=C1
catalyst | Pd(OH)2 | 0.3 g | [OH-].[OH-].[Pd+2]
product | N-[[4-(3-Methoxyphenyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide dihydrochloride | Cl.Cl.COC=1C=C(C=CC1)N1CC(NCC1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/C20H26N4O4S.2ClH/c1-28-19-5-3-4-18(12-19)24-11-10-21-17(14-24)13-22-20(25)15-6-8-16(9-7-15)23-29(2,26)27;;/h3-9,12,17,21,23H,10-11,13-14H2,1-2H3,(H,22,25);2*1H
